US04666899
Dimethyl(1,1-dimethylethyl)(2-propynyloxy)silane
A solution of propargyl alcohol (8.7 ml), t-butyldimethyl silyl chloride (25. g) and 4-dimethylaminopyridine (0.73 g) in methylene chloride (45 ml) was cooled to 0°. Triethylamine (25.1 ml) was added dropwise over 5 mins with stirring. After 18 h the mixture was diluted with methylene chloride (50 ml) and extracted with water (2×75 ml). The aqueous solutions were combined and then extracted with methylene chloride (25 ml). The organic phases were combined and washed with water and saturated aqueous ammonium chloride, dried and evaporated to give an oil (24.9 g). Distillation under reduced pressure afforded the title compound as an oil (20.8 g); bp 60°-62° (24 mm Hg).

reactant | propargyl alcohol | 8.7 ml | C(C#C)O | C3H4O
reactant | t-butyldimethyl silyl chloride | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | Triethylamine | 25.1 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.73 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Dimethyl(1,1-dimethylethyl)(2-propynyloxy)silane | 24.9 g | C[Si](OCC#C)(C(C)(C)C)C | C9H18OSi
